US05089507
3-chloro-5,5-dimethyl-2-oxoperhydroazepine
15.2 g (0.086 moles) of 3,3-dichloro-5,5-dimethyl-2-oxoperhydroazepine were dissolved in 900 ml of glacial acetic acid and shaked at 40 psi of hydrogen with 7 g of 10% Pd/C as in Description 14, to yield 13.6 g of the title compound.

reactant | 3,3-dichloro-5,5-dimethyl-2-oxoperhydroazepine | 0.086 moles, 15.2 g | ClC1(C(NCCC(C1)(C)C)=O)Cl | C8H13Cl2NO
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 900 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 7 g | [Pd] | Pd
product | 3-chloro-5,5-dimethyl-2-oxoperhydroazepine | 13.6 g | ClC1C(NCCC(C1)(C)C)=O | C8H14ClNO
